US04178387
To a suspension of 31.5 g. of N-butyl-2,6-dimethylaniline in 400 ml. of toluene is added 50 ml. of phosgene. The solution is heated to reflux and refluxed for 30 minutes. The solvent is then allowed to distill off (ca 350 ml.) and then cooled. The solution is evaporated in vacuo to a light oil which is then dissolved into hexane, filtered and the hexane evaporated off in vacuo to give a milky oil which is then distilled to give 2,6-dimethyl-N-butylphenylcarbamoyl chloride (b.p. 105° C./0.1 mm)

reactant | N-butyl-2,6-dimethylaniline | C(CCC)NC1=C(C=CC=C1C)C | C12H19N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,6-dimethyl-N-butylphenylcarbamoyl chloride | CC1=C(C(=CC=C1)C)N(C(=O)Cl)CCCC | C13H18ClNO
